US04457872
To a mixture of 1.2 g of N-methylpiperazine and 20 ml of methanol was added gradually 2 g of ethyl 5-cyano-2-hydroxyoxanilate and after stirring the mixture for 3 hours at room temperature, crystals formed were recovered by filtration, washed successively with isoporpnaol and ether, and dried to provide 2 g of 1-(5-cyano-2-hydroxyoxanilyl)-4-methylpiperazine.

reactant | N-methylpiperazine | 1.2 g | CN1CCNCC1 | C5H12N2
reactant | ethyl 5-cyano-2-hydroxyoxanilate | 2 g | C(#N)C=1C=CC(=C(NC(C(=O)OCC)=O)C1)O | C11H10N2O4
solvent | methanol | 20 ml | CO | CH4O
product | 1-(5-cyano-2-hydroxyoxanilyl)-4-methylpiperazine | 2 g | C(#N)C=1C=CC(=C(NC(C(=O)N2CCN(CC2)C)=O)C1)O | C14H16N4O3
